US05223526
To cyclohexanone (24.4 mL) and 2,6-di-t-butyl-4-methylpyridine (48.3 g) in CH2Cl2 (700 mL) at 0° C. was added dropwise triflic anhydride (42 mL) in CH2Cl2 (100 mL). The mixture was stirred overnight slowly coming to RT. A white solid was filtered and the filtrate was concentrated in vacuo. The residue was triturated with hexanes and filtered. The filtrate was concentrated in vacuo. The residue was chromatographed on silica gel eluting with hexanes to give O-trifluoromethylsulfonyl-1-cyclohexenol.

reactant | cyclohexanone | 24.4 mL | C1(CCCCC1)=O | C6H10O
reactant | 2,6-di-t-butyl-4-methylpyridine | 48.3 g | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | triflic anhydride | 42 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 700 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | O-trifluoromethylsulfonyl-1-cyclohexenol | FC(S(=O)(=O)OC1=CCCCC1)(F)F | C7H9F3O3S
